US07811499B2
Synthesis of the endgroup 4-fluoro-4′-(phenylethynyl)benzophenone (Structure XV):
4-bromo-4′-fluorobenzophenone: fluorobenzene (6.89 g, 71.7 mmol), 4-bromobenzoyl chloride (7.86 g, 35.8 mmol), and aluminum chloride (4.78 g, 35.8 mmol) were combined and stirred for 24 h at room temperature. The resulting mixture was poured over ice, and then filtered. The solid was dissolved in hot ethanol, treated with decolorizing charcoal, and filtered; white crystals of the title compound formed upon cooling of the ethanol solution and were isolated by filtration.

reactant | 4-bromo-4′-fluorobenzophenone | BrC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8BrFO
reactant | fluorobenzene | 71.7 mmol, 6.89 g | FC1=CC=CC=C1 | C6H5F
reactant | 4-bromobenzoyl chloride | 35.8 mmol, 7.86 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | aluminum chloride | 35.8 mmol, 4.78 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 4-fluoro-4′-(phenylethynyl)benzophenone | FC1=CC=C(C(=O)C2=CC=C(C=C2)C#CC2=CC=CC=C2)C=C1 | C21H13FO
